US08729095B2
At room temperature under shielded light, to N,N′-diisopropylcarbodiimide (99.75 g) was added copper(I) chloride (1.57 g), and then tert-butanol (83 ml) was added dropwise over 20 minutes, followed by stirring for 4 days. The supernatant (78 ml) was added dropwise to a dichloromethane suspension (270 ml) of 3-bromo-2,2-dimethylpropanoic acid (49.4 g) at room temperature over 30 minutes, followed by stirring for 18 hours. Acetic acid (18.8 ml) was added, and stirred for 1 hour. The reaction suspension was filtered, and ice water and sodium hydrogen carbonate were added to the filtrate for neutralization. After the precipitate was filtered off, the organic layer separated from the filtrate was washed with saturated sodium hydrogen carbonate, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. After pentane was added to the residue, insolubles were filtered off, and the filtrate was concentrated under reduced pressure to afford tert-butyl 3-bromo-2,2-dimethylpropanoic acid (18.81 g).

reactant | N,N′-diisopropylcarbodiimide | 99.75 g | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | tert-butanol | 83 ml | C(C)(C)(C)O | C4H10O
reactant | dichloromethane | 270 ml | ClCCl | CH2Cl2
reactant | 3-bromo-2,2-dimethylpropanoic acid | 49.4 g | BrCC(C(=O)O)(C)C | C5H9BrO2
catalyst | copper(I) chloride | 1.57 g | [Cu]Cl
solvent | Acetic acid | 18.8 ml | C(C)(=O)O | C2H4O2
product | tert-butyl 3-bromo-2,2-dimethylpropanoic acid | 18.81 g | C(C)(C)(C)C(C(C(=O)O)(C)C)Br | C9H17BrO2
